US05049669
Ethylamine (18.75 cc) is added to a solution of 2-(2-cyano-10-phenothiazinyl)-2-propyl methanesulphonate, D series (10 g) in toluene (100 cc), and this mixture is brought to a temperature in the region of 105° C. for 24 hours. After being cooled, the reaction mixture is concentrated to dryness under reduced pressure (30 mm Hg; 4 kPa) at 40° C. The residue is taken up with ethyl ether (250 cc) and extracted successively with N aqueous hydrochloric acid solution (2×100 cc). The combined aqueous phases are alkalinized with caustic soda (d=1.33) to pH 13 and extracted with ethyl ether (2 x 200 cc). The combined organic phases are washed successively with distilled water (50 cc) and with saturated aqueous sodium chloride solution (50 cc), dried over magnesium sulphate, filtered and concentrated to dryness under reduced pressure (30 mm Hg; 4 kPa) at 40.° C. 10-(1-Ethylamino-2-propyl)- 2-phenothiazinecarbonitrile D series (5 g) is thereby obtained in the form of an orange oil. This product is dissolved at a temperature in the region of 60° C. in ethanol (17 cc) and this solution is poured into a solution of fumaric acid (1.9 g) in ethanol (17 cc) at the same temperature, crystallization is then primed and the mixture is left for 16 hours at a temperature in the region of 20° C. The solid is drained, washed with ethanol (2×2 cc) and dried under reduced pressure (5 mm Hg; 0.7 kPa) at 40° C. 10-(1-Ethylamino-2-propyl)-2-phenothiazinecarbonitrile acid fumarate, D series (4 g) is thereby obtained in the form of a yellow solid, m.p. 208° C.

reactant | Ethylamine | 18.75 cc | C(C)N | C2H7N
reactant | 2-(2-cyano-10-phenothiazinyl)-2-propyl methanesulphonate | CS(=O)(=O)OC(C)(C)N1C2=CC=CC=C2SC=2C=CC(=CC12)C#N | C17H16N2O3S2
solvent | toluene | 100 cc | C1(=CC=CC=C1)C | C7H8
product | 10-(1-Ethylamino-2-propyl)- 2-phenothiazinecarbonitrile | C(C)NCC(C)N1C2=CC=CC=C2SC=2C=CC(=CC12)C#N | C18H19N3S
